.subckt g3vm-101 1 2 3 4 5 6
D1 1 N003 LED
Vam N003 2 0
C1 1 2 {Cin}
R1 3 0 1T
D2 N001 5 PHO n=12
M1 6 N002 5 5 NMOS1
M2 4 N002 5 5 NMOS1
B1 5 N001 I=k*i(Vam)
D3 N001 N002 D1
Q1 5 N001 N002 0 PNP1
R2 5 N001 1Meg
C2 6 1 0.4p Rpar=2Gig
C3 4 2 0.4p Rpar=2Gig
.model LED D(Is=1e-16 Rs=3 N=1.5 Eg=1.8  TT=100n ibv=10u bv=5)
.model NMOS1 VDMOS(Vto=3 Kp={5/RON*2} Rd={0.85*RON/2} Cgs={50p/RON} Cjo={50p/RON} RDS=100Meg)
.model PHO D(Is=1p  N=1  CJ=50p TT=100n)
.param Ron=50m Ton=2m Toff=0.1m k=1m Cin=70p
.model PNP1 PNP BF=7 Cje=1p tf=1n
.model D1 D is=1p  tt=1n
.ends g3vm-101
